US07795437B2
1.1 4-(4-Fluoro-phenoxy)-piperidine 1-carboxylic acid tert-butyl ester
To a solution of triphenyl phosphine (7.7 g, 29 mmol), in tetrahydrofuran (40 mL), diethylazodicarboxylate (5.12 g, 29 mmol) was added and the solution was stirred for 20 minutes. 4-Fluorophenol (3 g, 27 mmol) was added and the mixture was stirred for another 20 minutes at 0° C. N—Boc-4-hydroxypiperidine (5.9 g, 29 mmol) was added dissolved in tetrahydrofuran (20 mL) and the mixture was stirred at room temperature overnight. Water was added and the solution was extracted three times with dichloromethane. The combined organic layers were washed with water and brine, dried over magnesium sulfate, filtered and evaporated. The crude product was purified by flash-chromatography on silica gel with hexane:ethyl acetate (1:0 to 1:1) to give 4.8 g (60%) of the product as a white solid. MS (m/e): 296.3 (M−H+).

reactant | triphenyl phosphine | 29 mmol, 7.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 29 mmol, 5.12 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 4-Fluorophenol | 27 mmol, 3 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | N—Boc-4-hydroxypiperidine | 29 mmol, 5.9 g | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 4-(4-Fluoro-phenoxy)-piperidine 1-carboxylic acid tert-butyl ester | 4.8 g, 60% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)F | C16H22FNO3
